US04282242
Methyl 5-(2,4-Dichlorophenylthio)pyrrole-3-carboxylate
Under nitrogen, methyl pyrrole-3-carboxylate (3.75 g.) was dissolved in 100 ml. of methylene chloride and cooled in an ice-water bath. To the cold, stirred solution, 2,4-dichlorobenzenesulfenyl chloride (6.39 g., 30 mmoles) was added dropwise. The bath was removed and the reaction stirred at room temperature for 1 hour. An equal volume of ether was added, the mixture filtered and the filtrate evaporated in vacuo to crude product (9.0 g., oil). The oil was chromatographed on 300 g. of silica gel with 200 ml. fractions of the ethyl acetate-1/hexane-7 eluant collected. Fractions 6 to 10 were combined and evaporated to yield purified methyl 5-(2,4-dichlorophenylthio)pyrrole-3-carboxylate (3.7 g., solid, m/e 302).

reactant | methyl pyrrole-3-carboxylate | 3.75 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | 2,4-dichlorobenzenesulfenyl chloride | 30 mmoles, 6.39 g | ClC1=C(C=CC(=C1)Cl)SCl | C6H3Cl3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 5-(2,4-Dichlorophenylthio)pyrrole-3-carboxylate | ClC1=C(C=CC(=C1)Cl)SC1=CC(=CN1)C(=O)OC | C12H9Cl2NO2S
